Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
sulfur dioxide
 
Attending: ___.
 
Chief Complaint:
"I had a manic episode tonight."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per initial ED consult note on ___:
Pt is a ___ y/o female, ___ freshman, w/ past 
psychiatric history of depression treated by PCP, longstanding 
suicidal ideation w/o past SA, self harming behaviors (cutting), 
emotional abuse by her mother, who was ___ from her school to 
the ___ ED for mania. 

On interview, pt readily reported she experienced a manic 
episode prior to arrival to the ED. Pt described feeling like 
she was, "Bouncing," w/ very high energy, moving fast, racing 
thoughts, reduced inhibition, and increased impulsivity. Pt 
stated that she thoughts w/ friends that she usually wouldn't, 
specifically that she has daily thoughts of "passive suicidal 
ideation," that she'd be better off dead. Pt also discussed 
thoughts of wanting to harm her self via cutting w/ exacto knife 
to her upper thighs. During this episode, pt experienced an 
increased frequency of intrusive
thoughts to harm herself, via cutting or to hit her head on the 
wall. Pt reported that she did not take actions towards self 
harm this evening. Pt denied past similar episodes. Pt denied 
new or a change in stressors today. 

Pt was asked to account for her day. Pt reported waking up at 
1pm after sleeping x12 hours. Pt then showered and got food by 
herself at a local diner. Pt was invited to a movie, but decided 
not to go and returned to her dorm by herself. Around 7PM pt 
went to her friends place to watch a movie. It was at this time 
that she felt her thoughts and energy markedly change. Her 
friends suggested she return to her room and take her medication 
(Venlafaxine ER), which she did. Today she did not take her 
Adderall, which she is prescribed for fatigue. Pt's friends 
became quite worried about her due to her discussion of wanting 
to harm herself and "passive suicidal ideation," and they 
contacted her RA. Pt was then sent by ambulance to ___ ED for 
further evaluation. Upon arrival to the ED, pt reported feeling
that her manic episode had subsided and her energy decreased. Pt 
denied substance use today and in recent past. Pt denied any 
other impulsive or dangerous behaviors. Pt denied sx of 
psychosis. 

Pt described her mood as, "Down." Pt reported depressed mood for 
the past 2 weeks since returning from home. Pt initially denied 
stressors, noting that she does well in class and has many 
friends. However, pt later discussed ongoing emotional abuse at 
home, and reported returning to school from home 2 weeks prior 
to presentation. Over the past 2 weeks, pt experienced 
disturbance in neurovegetative sx. Pt reported the past 2 weeks 
she felt more depressed than usual, characterized by extreme 
self hate, low
energy, fatigue, and poor sleep (frequent awakenings, x2-3 per 
night). Pt attributed the change in mood to the stress from 
being at home. Pt denied other stressors. Pt reported doing well 
at school, currently taking classes towards earning a degree in 
behavioral neuroscience, and getting all As. Reported skipping 
one class this past week when feeling unmotivated and stress, 
which is unusual for her. Over the past 2 weeks, pt denied 
change
in impulsivity, racing thoughts, activity, sleep, concentration, 
and talkativeness. Pt endorsed recent self harming behaviors, 
specifically cutting her thighs w/ an exacto knife as a way to 
cope w/ anxiety. Pt endorsed suicidal ideation, and denied 
suicidal planning or actions. Pt denied change in suicidal 
ideation, and stated it was longstanding "for years."  

Pt reported that her mood does seem to cycle, changing every 
couple weeks, for years now, and sensitive to stress. When her 
mood changes, reported her outlook changes, but denied any 
disturbance in neurovegetative symptoms during this time.  
 
Past Medical History:
None, no seizures, no head injurues
PCP: Dr. ___ of ___
 
Social History:
___
Family History:
Paternal aunt- depression, completed suicide
Paternal cousin- depression 
___- alcohol abuse  
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: BP=114/72, HR=92, T=98.8, RR=18, SaO2= 98%  on RA
* General: NAD. Well-nourished, well-developed
* HEENT: Normocephalic. PERRL, EOMI.
* Back: No significant deformity. No focal tenderness.
* Lungs: Clear to auscultation bilaterally. No crackles or 
wheezes.
* CV: Regular rate and rhythm. No murmurs/rubs/gallops. 
* Abdomen: Soft, nontender, nondistended
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry. No readily apparent rashes, scars. Pt has 
healing incisions on her upper thighs bilaterally, varying from 
1 in to 4 inches in length, about ___ on each leg. 

Neurological:
  *Cranial Nerves: CN II-XII intact 
  *Motor- Normal bulk and tone bilaterally. No abnormal 
movements, no tremor. Strength full power ___ throughout. No 
gross focal motor or sensory deficits, normal gait.
  *Coordination: Normal on finger-nose-finger.
  *Sensation: Intact to light touch, position sense intact.
  *Gait: Steady. No truncal ataxia. Normal stance and posture.

NEUROPSYCHIATRIC EXAMINATION:
* Appearance: NAD. Appears stated age. Well kept on examination. 
Tearful. 2 bottom lip piercings. Hair long. Fashionable glasses. 

* Behavior: Appropriate with good eye contact, cooperative with 
interview.
* Orientation: Oriented to self, location, and date.
* Mood: "anxious"
* Affect: dysthmic, nervous, congruent to stated mood.
* Thought Process: Logical and goal directed. No loosening of 
associations. No apparent disorganization.
* Thought Content: Denies current suicidal thoughts, plans, and 
actions. Denies HI. Free of any evidence of psychosis.
* Judgment: Poor.
* Insight: Poor.
* Speech: Spontaneous. Normal conversational volume, tone, rate, 
and prosody.

 
Pertinent Results:
___ 12:15AM BLOOD WBC-7.1 RBC-4.35 Hgb-12.3 Hct-37.3 MCV-86 
MCH-28.3 MCHC-33.0 RDW-14.6 RDWSD-45.8 Plt ___
___ 12:15AM BLOOD Neuts-55.5 ___ Monos-6.5 Eos-0.1* 
Baso-0.7 Im ___ AbsNeut-3.95 AbsLymp-2.64 AbsMono-0.46 
AbsEos-0.01* AbsBaso-0.05
___ 12:15AM BLOOD Neuts-55.5 ___ Monos-6.5 Eos-0.1* 
Baso-0.7 Im ___ AbsNeut-3.95 AbsLymp-2.64 AbsMono-0.46 
AbsEos-0.01* AbsBaso-0.05
___ 12:15AM BLOOD Plt ___
___ 12:15AM BLOOD Glucose-116* UreaN-10 Creat-0.6 Na-139 
K-3.9 Cl-106 HCO3-21* AnGap-16
___ 12:15AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:15AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout.  She was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
#Depression: Ms. ___ has a long standing self reported 
history of depression who was admitted following an episode of 
elevated mood and egodystonic intrusive thoughts to harm 
herself. On admission to the unit, she was dysthymic, tearful 
and apprehensive about the admission. She does acknowledge a 
history of depressed mood that has acutely worsened in the past 
couple weeks coinciding with restarting school. She noted that 
the intrusive thoughts on ___ were the most concerning to 
her. Prior to admission, she had been taking Venlafaxine 112.5mg 
as an outpatient for about a year. She said that initially she 
felt like it was helping but she no longer felt that way 
anymore.  Given her ongoing symptoms of depression, the team and 
patient decided to try sertraline.  She was cross tapered on 
both medications, initially placed on 50mg at night of 
sertraline and 75mg of Effexor.  The next day she received 
37.5mg of Effexor and 75mg sertraline.  Pt tolerated the 
medication well and denied any symptoms of withdrawal from 
Effexor. She was discharged on 75mg Sertraline. Upon discharge 
pt denied any suicidal or self injurious thoughts. She was 
determined to be safe for discharge on ___. 

Diagnostically, the etiology of her current presentation of mood 
liability is unclear. Ms. ___ does have a longstanding 
history of depression that has been treated with an SSRI with 
limited success. She is expressing neurovegetative symptoms 
making this episode like a current depressive episode of her 
Major Depression Disorder.  The team discussed augmentation of 
her sertraline with Wellbutrin to provide synergystic benefits, 
and the pt was instructed to discuss this with her outpatient 
team. 

#ADHD: Pt reports a history of ADHD treated with Adderall ER 
30mg daily. She said that the Adderall helped her to wake up in 
the morning or else she would sleep for many hours in a day.  
She noted that she only experiences hypersomnia when she is 
depressed.  The team expressed how sleeping too much is likely a 
symptom of her underlying depression and if this were adequately 
treated she may not need the Adderall to give her energy.  She 
expressed that she would like to get off the Adderall. It was 
held while inpatient and she was instructed to follow up with 
her outpatient providers.  It was also suggested that adding 
Wellbutrin could providing some activating benefits as well as 
help with the depression.  She should speak to her providers. 

GENERAL MEDICAL CONDITIONS:
# Contraception - pt takes OCPs and these were held during her 
admission as she was on the placebo week. 

PSYCHOSOCIAL:
#) GROUPS/MILIEU: Pt was inconsistent in her group 
participation.  She was encouraged to participate in unit’s 
groups therapy opportunities, however she chose to only attend 
projects groups. Use of coping skills and mindfulness/relaxation 
methods were encouraged. Therapy addressed her longstanding 
family struggles as well as her own personal development in the 
context of challenging psychosocial stressors. 

#) COLLATERAL CONTACTS:
Pt has not outside treaters.  She has a PCP in ___ who 
does not know the patient well. 

#) FAMILY INVOLVEMENT:
Pt requested that the team does not contact her mother or 
father.  She said she is close to a cousin, ___, and the 
team was able to contact her. Ms. ___ expressed her support and 
concern for ___. She noted a challenging household and 
upbringing with an contentious split of her parents. She also 
noted that ___ lost her grandmother in ___ and ___ 
she was pt's chief caregiver when she was younger. Ms. ___ said 
this was difficult for her. Ms. ___ expressed that she would be 
able to help in any way. 

#) INTERVENTIONS:
 - Medications: stopped Venlafaxine, started sertraline 
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy
 - Coordination of aftercare with ___ Counseling 

INFORMED CONSENT:
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting Sertraline, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and all questions were answered 
appropriately.  The patient appeared able to understand and 
consented to begin the medication.

RISK ASSESSMENT:
Ms. ___ is at low imminent risk of harm to self. 

#) Chronic/Static Risk Factors:
- Chronic mental illness, adolescent age, family history of 
mental illness, challenging home environment, history / current 
self injurious behavior 

#) Modifiable Risk Factors:
- Suicidal ideation - this risk was mitigated by starting zoloft 
and stopping her Effexor that was not as efficacious  
- Self injurious behavior -  this risk was mitigated by 
education the patient on more productive coping skills for 
stress 
- No outside providers - this risk was mitigated by setting up 
outpatient counseling through ___
- Limited coping skills - this risk was mitigated through groups 
focused on productive coping skills and through outpatient 
counseling at ___ 

#) Protective Factors:
- Help-seeking nature - pt motivated for change
- Medication compliant - no issues with taking medication
- Future-oriented viewpoint - pt motivated to stay in school and 
do well academically 
- Sense of responsibility to family - pt has a challenging home 
relationship, however she does note that she is close to her 
family especially her cousin 
- No history of substance use disorder - pt has no history of 
drug or alcohol abuse
- Strong social supports - pt has multiple friends and is well 
liked by her friends. She also has a strong sense of community 
at ___ 

PROGNOSIS:
Good - pt has multiple protective factors.  She is motivated for 
change and willing to engage in aftercare. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 112.5 mg PO DAILY 
2. Amphetamine-Dextroamphetamine XR 30 mg PO DAILY 

 
Discharge Medications:
1. Amphetamine-Dextroamphetamine XR 30 mg PO DAILY 
2. Sertraline 75 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder 

 
Discharge Condition:
*VS:  BP:114/72   HR:83  temp:98.3  resp:16  O2 sat:100%
Cognition: 
 Wakefulness/alertness: alert, awake
 *Attention (digit span, MOYB): maintains appropriate attention 
throughout exam 
 *Orientation: person, place, date, situation 
 *Memory: recalls aspects of past few days / past treatments 
 *Fund of knowledge: appropriate for age and education level
 *Speech: normal rate, rhythm, prosody
 *Language: fluent ___, no paraphasic errors 
 
Mental Status:
 *Appearance: Appears stated age. Well kept on examination. 
bottom lip piercings. Hair long. Fashionable glasses. 
 Behavior: calm, cooperative, engaged in interview, good eye 
contact
 *Mood and Affect: 'good'; euthymic, congruent with mood
 *Thought process / *associations:  linear, logical, 
goal-oriented, associations intact
 *Thought Content: Denies SI/HI/AVH; no evidence of delusions or 
paranoia, does not appear to be responding to internal stimuli   
   
 *Judgment and Insight: fair/fair

 
Discharge Instructions:
You were hospitalized at ___ for worsening depression.  We 
adjusted your medications, and you are now ready for discharge

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___